US03959322
2-(6-m-Acetoxyphenyl-3-oxohexyl)-2-methylcyclopentane-1,3-dione
Reflux a mixture of 6-(m-acetoxyphenyl)-1-diethylaminohexan-3-one and 6-(m-acetoxyphenyl)hex-1-en-3-one (1 g), with 2-methylcyclopentane-1,3-dione (1.5 g) in 0.12% methanolic potassium hydroxide (6 cc) for 18 hours. Remove methanol (2 cc) under reduced pressure and add chloroform (60 cc). Wash the solution in turn with dilute sulfuric acid (25 cc), saturated potassium bicarbonate solution, and brine; dry and evaporate the solvent. The product (0.8 g) is the adduct 2-(6-m-acetoxyphenyl-3-oxohexyl)-2-methylcyclopentane-1,3-dione in admixture with some of the corresponding free phenol; infrared absorption: 2.86 to 3.08 (broad low-intensity band), 5.71, 5.81, 5.85, and 8.26 μ.

reactant | 6-(m-acetoxyphenyl)-1-diethylaminohexan-3-one | C(C)(=O)OC=1C=C(C=CC1)CCCC(CCN(CC)CC)=O | C18H27NO3
reactant | 6-(m-acetoxyphenyl)hex-1-en-3-one | 1 g | C(C)(=O)OC=1C=C(C=CC1)CCCC(C=C)=O | C14H16O3
reactant | 2-methylcyclopentane-1,3-dione | 1.5 g | CC1C(CCC1=O)=O | C6H8O2
reactant | methanol | 2 cc | CO | CH4O
solvent | potassium hydroxide | 6 cc | [OH-].[K+]
solvent | chloroform | 60 cc | C(Cl)(Cl)Cl | CHCl3
product | 2-(6-m-Acetoxyphenyl-3-oxohexyl)-2-methylcyclopentane-1,3-dione | C(C)(=O)OC=1C=C(C=CC1)CCCC(CCC1(C(CCC1=O)=O)C)=O | C20H24O5
